US04895860
Step (1) Preparation of 5-Chloromethylindan
A mixture of indan (50.0 g, 0.423 mol), paraformaldehyde (23.3 g), concentrated HCl (74 mL), 85% H3PO4 (33 mL), and acetic acid (54 mL) was heated at 95° C. for 6 hours. The mixture was cooled and diluted with ether (200 mL). The organic phase was separated and washed with H2O (2×200 mL), saturated aqueous NaHCO3 (200 mL), H2O (200 mL), dried (MgSO4), and concentrated. The crude product was distilled under high vacuum (0.8 mm) to give 35.2 g (50%) as a colorless oil, b.p. 89° C.

reactant | indan | 0.423 mol, 50.0 g | C1CCC2=CC=CC=C12 | C9H10
reactant | paraformaldehyde | 23.3 g | C=O | CH2O
reactant | HCl | 74 mL | Cl | ClH
reactant | H3PO4 | 33 mL | OP(=O)(O)O | H3O4P
reactant | ether | 200 mL | CCOCC | C4H10O
solvent | acetic acid | 54 mL | C(C)(=O)O | C2H4O2
product | 5-Chloromethylindan | ClCC=1C=C2CCCC2=CC1 | C10H11Cl
